US04162154
2,3-Dihydro-2-hydroxy-3,3-dimethylbenzofuran-5-yl methane sulphonate (129 parts) was added to a solution of sodium hydroxide (120 parts) in water (1200 parts) and methanol (320 parts). Sodium borohydride (19 parts) was added portionwise with vigorous stirring at 15°-20° C. The mixture was stirred for three hours, then acidified with hydrochloric acid and filtered to give 4-hydroxy-3-(2-hydroxy-1,1-dimethylethyl)phenyl methanesulphonate (117 parts, 90% yield). Recrystallisation from 1,2-dichloroethane gave the pure product, melting point 122°-124° C.

reactant | 2,3-Dihydro-2-hydroxy-3,3-dimethylbenzofuran-5-yl methane sulphonate | CS(=O)(=O)OC=1C=CC2=C(C(C(O2)O)(C)C)C1 | C11H14O5S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | Sodium borohydride | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | 4-hydroxy-3-(2-hydroxy-1,1-dimethylethyl)phenyl methanesulphonate | 90% yield | CS(=O)(=O)OC1=CC(=C(C=C1)O)C(CO)(C)C | C11H16O5S
